* File: DFSR.pex.netlist.pex
* Created: Mon Nov  8 16:45:41 2021
* Program "Calibre xRC"
* Version "v2021.3_35.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFSR_N 1 3 7 9 19 21 23 27 35 37 40 55 57 63 65 72 75
c122 75 0 0.0110423f
c123 72 0 0.00197473f
c124 65 0 0.00507372f
c125 63 0 0.00131862f
c126 57 0 0.0088835f
c127 55 0 0.00947866f
c128 40 0 0.002757f
c129 37 0 0.0140488f
c130 35 0 0.0019451f
c131 27 0 0.00647336f
c132 21 0 0.035439f
c133 19 0 0.0272566f
c134 7 0 0.0176389f
c135 1 0 0.0151635f
r136 75 78 1.42857
r137 72 78 88.2939
r138 65 68 0.0178571
r139 60 75 88.2939
r140 60 63 0.214286
r141 58 65 0.0146822
r142 57 72 0.0146822
r143 57 58 2.17857
r144 52 55 2.53571
r145 48 63 88.2939
r146 40 55 88.2939
r147 40 43 0.0922857
r148 37 68 88.2939
r149 35 37 2.41571
r150 33 52 88.2939
r151 29 35 0.212317
r152 25 43 89.3538
r153 25 27 4.472
r154 21 27 1.30843
r155 21 23 40.56
r156 17 27 1.30843
r157 17 19 37.05
r158 9 48 1.28657
r159 7 48 2.432
r160 3 29 1.47114
r161 3 33 1.62314
r162 1 33 1.33543
.ends

.subckt PM_DFSR_RST_BAR 1 3 11 15 20 29 36 42 48 55 61 64
c124 64 0 0.00178785f
c125 61 0 0.0139536f
c126 55 0 0.00976561f
c127 48 0 0.00301194f
c128 42 0 0.0526294f
c129 36 0 0.00569186f
c130 29 0 0.00430385f
c131 20 0 0.00628503f
c132 15 0 0.036507f
c133 11 0 0.0264185f
c134 3 0 0.0331138f
r135 64 66 1.42857
r136 61 64 4.28571
r137 55 58 2.14286
r138 48 61 88.2939
r139 45 48 0.142857
r140 42 66 88.2939
r141 39 58 88.2939
r142 39 42 6.5
r143 36 55 88.2939
r144 33 36 1.125
r145 31 33 88.2939
r146 29 31 0.122941
r147 25 45 88.2939
r148 20 29 89.3538
r149 17 20 4.368
r150 13 17 1.30843
r151 13 15 41.21
r152 9 17 1.30843
r153 9 11 36.4
r154 3 25 2.70886
r155 1 25 0.249714
.ends

.subckt PM_DFSR_RST 3 7 18 22 27 31 34 40 47 53 56
c68 56 0 0.0243879f
c69 53 0 0.0120889f
c70 47 0 0.00165762f
c71 40 0 0.00351659f
c72 34 0 0.016246f
c73 31 0 0.00184216f
c74 27 0 0.00564857f
c75 22 0 0.0361216f
c76 18 0 0.0253782f
c77 12 0 0.00733807f
c78 7 0 0.0436073f
c79 3 0 0.0297321f
r80 56 59 3.57143
r81 50 56 88.2939
r82 50 53 1.07143
r83 47 59 88.2939
r84 44 47 0.0535714
r85 42 44 88.2939
r86 40 42 0.177333
r87 37 53 88.2939
r88 34 37 1.54714
r89 29 40 0.0353122
r90 29 31 0.960857
r91 27 31 89.3538
r92 24 27 4.368
r93 20 24 1.30843
r94 20 22 52.26
r95 16 24 1.30843
r96 16 18 46.54
r97 14 37 0.0868571
r98 10 14 89.3538
r99 10 12 4.472
r100 5 12 1.30843
r101 5 7 46.54
r102 1 12 1.30843
r103 1 3 29.51
.ends

.subckt PM_DFSR_VDD! 1 3 5 9 13 17 19 21 25 27 60 61 62 94 96 97 101 104 108 111
+ 116 122 127 133 138 143 155
c158 164 0 0.00294753f
c159 163 0 0.00294753f
c160 162 0 0.0029942f
c161 161 0 0.00294753f
c162 160 0 0.00302514f
c163 159 0 0.00302514f
c164 158 0 0.00294753f
c165 157 0 0.00294753f
c166 155 0 0.0183251f
c167 143 0 0.032869f
c168 138 0 0.0445089f
c169 133 0 0.0256159f
c170 127 0 0.0422747f
c171 122 0 0.0307171f
c172 116 0 0.0176518f
c173 108 0 0.0384496f
c174 101 0 0.249033f
c175 97 0 0.0118225f
c176 96 0 0.0428739f
c177 95 0 0.0137081f
c178 94 0 0.014548f
c179 62 0 0.0121383f
c180 61 0 0.0134157f
c181 60 0 0.0144237f
c182 27 0 0.0104008f
c183 25 0 0.0127462f
c184 21 0 0.0119024f
c185 19 0 0.00971236f
c186 17 0 0.00945716f
c187 13 0 0.00870366f
c188 9 0 0.00951962f
c189 5 0 0.0101103f
c190 3 0 0.0102085f
c191 1 0 0.01394f
r192 155 156 0.514118
r193 144 164 0.0731438
r194 143 145 0.264221
r195 143 144 0.715294
r196 140 164 0.145286
r197 139 163 0.0731438
r198 138 150 0.264221
r199 138 139 1.16235
r200 135 163 0.145286
r201 134 162 0.0731438
r202 133 163 0.0731438
r203 133 134 1.11765
r204 129 162 0.145286
r205 128 161 0.0731438
r206 127 162 0.0731438
r207 127 128 1.74353
r208 124 161 0.145286
r209 123 160 0.0731438
r210 122 161 0.0731438
r211 122 123 1.29647
r212 118 160 0.145286
r213 117 159 0.0731438
r214 116 160 0.0731438
r215 116 117 0.782353
r216 112 159 0.145286
r217 109 158 0.0731438
r218 109 111 1.63176
r219 108 159 0.0731438
r220 108 111 0.111765
r221 105 158 0.145286
r222 102 157 0.0731438
r223 102 104 1.19588
r224 101 164 0.0731438
r225 101 104 7.67824
r226 98 157 0.145286
r227 96 158 0.0731438
r228 96 97 1.74353
r229 95 156 0.0782353
r230 94 157 0.0731438
r231 94 95 0.625882
r232 91 97 0.264221
r233 88 156 0.185986
r234 83 155 0.185986
r235 62 129 1.94343
r236 61 118 1.94343
r237 60 112 1.94343
r238 27 145 0.716571
r239 25 140 1.03686
r240 21 98 1.03686
r241 19 83 0.716571
r242 17 88 1.03686
r243 13 135 1.03686
r244 9 124 1.03686
r245 5 105 1.03686
r246 3 150 0.722
r247 1 91 1.03686
.ends

.subckt PM_DFSR_CLKI_BAR 1 3 9 13 18 21 23 27 30 36 38 42 45 51 53 57 60 66 68
+ 72 75 80 88 92 99 101 102 103 112 118 126 135 138 144 150 156
c210 156 0 0.0124769f
c211 150 0 0.0176008f
c212 144 0 0.00625664f
c213 138 0 0.0174645f
c214 135 0 0.00252476f
c215 126 0 0.0154784f
c216 118 0 0.0237377f
c217 112 0 0.0123546f
c218 103 0 0.00325822f
c219 102 0 0.00369885f
c220 101 0 9.91676e-19
c221 99 0 0.00264788f
c222 95 0 3.43754e-19
c223 92 0 0.0101991f
c224 88 0 0.0112591f
c225 80 0 0.00149642f
c226 75 0 0.00390907f
c227 72 0 0.0090081f
c228 66 0 0.0252853f
c229 60 0 0.00351714f
c230 57 0 0.0096649f
c231 51 0 0.0227546f
c232 45 0 0.00360163f
c233 42 0 0.0096743f
c234 36 0 0.0226896f
c235 30 0 0.00347344f
c236 27 0 0.00903773f
c237 21 0 0.0242012f
c238 18 0 0.00744244f
c239 13 0 0.043757f
c240 9 0 0.0307225f
r241 156 159 2.14286
r242 150 153 2.85714
r243 144 147 0.714286
r244 138 141 2.85714
r245 135 138 88.2939
r246 129 156 88.2939
r247 126 159 88.2939
r248 123 153 88.2939
r249 118 150 88.2939
r250 115 144 88.2939
r251 115 118 2.85714
r252 112 147 88.2939
r253 108 141 88.2939
r254 103 135 0.0146822
r255 103 105 0.267857
r256 99 102 0.160909
r257 96 101 0.0418175
r258 95 102 0.0418175
r259 95 96 0.76
r260 92 105 88.2939
r261 90 101 0.160909
r262 90 92 1.35714
r263 88 101 0.160909
r264 80 129 0.803571
r265 75 80 88.2939
r266 75 78 0.770857
r267 72 78 89.3538
r268 69 72 4.368
r269 66 69 1.30843
r270 66 68 23.79
r271 65 126 2.23214
r272 65 123 3.19643
r273 63 65 88.2939
r274 60 63 0.966286
r275 55 60 89.3538
r276 55 57 4.472
r277 51 57 1.30843
r278 51 53 22.75
r279 50 123 0.339286
r280 48 50 88.2939
r281 45 48 0.966286
r282 40 45 89.3538
r283 40 42 4.472
r284 36 42 1.30843
r285 36 38 22.75
r286 35 112 0.517857
r287 35 108 0.910714
r288 30 35 88.2939
r289 30 33 0.770857
r290 27 33 89.3538
r291 24 27 4.368
r292 21 24 1.30843
r293 21 23 23.79
r294 20 99 0.358286
r295 16 20 89.3538
r296 16 18 4.472
r297 11 18 1.30843
r298 11 13 46.54
r299 7 18 1.30843
r300 7 9 29.51
r301 3 88 0.971714
r302 1 92 0.249714
.ends

.subckt PM_DFSR_XML0.N1 1 3 7 9 20 30 31
c25 31 0 0.00105641f
c26 30 0 9.8429e-19
c27 22 0 4.21301e-19
c28 20 0 0.00928749f
c29 9 0 0.00779534f
c30 7 0 0.0091095f
c31 1 0 0.00868925f
r32 27 31 0.160909
r33 24 31 0.160909
r34 23 30 0.0418175
r35 22 31 0.0418175
r36 22 23 0.434286
r37 20 30 0.160909
r38 17 30 0.160909
r39 9 27 1.72086
r40 7 24 1.61771
r41 3 20 0.971714
r42 1 17 1.60686
.ends

.subckt PM_DFSR_XML0.N2 3 7 12 15 17 21 23 40 42 51 57
c66 57 0 0.00487009f
c67 51 0 0.00107347f
c68 42 0 0.00271263f
c69 40 0 0.00239047f
c70 38 0 3.43754e-19
c71 21 0 0.0176038f
c72 17 0 0.00854588f
c73 15 0 0.00718955f
c74 12 0 0.00794413f
c75 7 0 0.0401851f
c76 3 0 0.0306218f
r77 54 57 1.03571
r78 48 57 88.2939
r79 44 54 88.2939
r80 42 52 0.160909
r81 42 44 0.434286
r82 40 52 0.160909
r83 39 51 0.0418175
r84 38 52 0.0418175
r85 38 39 0.76
r86 35 51 0.160909
r87 32 51 0.160909
r88 23 48 1.28657
r89 21 48 2.432
r90 17 35 1.72086
r91 15 32 1.61771
r92 14 40 0.358286
r93 10 14 89.3538
r94 10 12 4.472
r95 5 12 1.30843
r96 5 7 44.85
r97 1 12 1.30843
r98 1 3 28.21
.ends

.subckt PM_DFSR_XML0.N4 1 3 9 11 21 25 26 35
c65 35 0 0.00436523f
c66 26 0 0.00138857f
c67 25 0 0.0030163f
c68 21 0 0.012664f
c69 9 0 0.00580018f
c70 1 0 0.0185358f
r71 32 35 1.32143
r72 25 27 0.212317
r73 25 26 0.705714
r74 21 35 88.2939
r75 19 26 0.212317
r76 19 21 1.73714
r77 16 32 88.2939
r78 11 21 0.852286
r79 9 27 1.02057
r80 3 16 1.28657
r81 1 16 2.432
.ends

.subckt PM_DFSR_XSL0.N1 3 7 12 15 17 21 23 40 42 57
c67 57 0 0.00487009f
c68 51 0 0.00107479f
c69 42 0 0.00271777f
c70 40 0 0.0026005f
c71 38 0 3.43754e-19
c72 21 0 0.0177253f
c73 17 0 0.00823071f
c74 15 0 0.00815936f
c75 12 0 0.00794413f
c76 7 0 0.0385973f
c77 3 0 0.0306218f
r78 54 57 1.03571
r79 48 57 88.2939
r80 44 54 88.2939
r81 42 52 0.160909
r82 42 44 0.434286
r83 40 52 0.160909
r84 39 51 0.0418175
r85 38 52 0.0418175
r86 38 39 0.76
r87 35 51 0.160909
r88 32 51 0.160909
r89 23 48 1.28657
r90 21 48 2.432
r91 17 35 1.72086
r92 15 32 1.61771
r93 14 40 0.358286
r94 10 14 89.3538
r95 10 12 4.472
r96 5 12 1.30843
r97 5 7 44.85
r98 1 12 1.30843
r99 1 3 28.21
.ends

.subckt PM_DFSR_XSL0.N2 1 3 9 13 18 20 26 30 35 44 60
c97 60 0 0.022965f
c98 44 0 0.00281897f
c99 35 0 0.00643986f
c100 30 0 0.03627f
c101 26 0 0.0280876f
c102 20 0 0.00454785f
c103 18 0 0.00665175f
c104 13 0 0.0396102f
c105 9 0 0.0293492f
c106 1 0 0.0144077f
r107 58 60 2.03571
r108 55 58 2.53571
r109 52 60 88.2939
r110 44 58 88.2939
r111 44 47 0.0922857
r112 40 55 88.2939
r113 33 47 89.3538
r114 33 35 4.472
r115 28 35 1.30843
r116 28 30 51.61
r117 24 35 1.30843
r118 24 26 47.19
r119 20 52 0.0868571
r120 16 20 89.3538
r121 16 18 4.472
r122 11 18 1.30843
r123 11 13 44.85
r124 7 18 1.30843
r125 7 9 28.21
r126 3 40 1.62314
r127 1 40 1.33543
.ends

.subckt PM_DFSR_XSL0.N3 1 3 9 11 19 23 35
c68 35 0 0.00826462f
c69 23 0 0.00304627f
c70 19 0 0.00280588f
c71 11 0 0.00721218f
c72 9 0 0.00949037f
c73 1 0 0.0167411f
r74 32 35 1.32143
r75 30 35 88.2939
r76 24 30 0.106158
r77 23 25 0.212317
r78 23 24 0.705714
r79 19 30 0.106158
r80 16 32 88.2939
r81 11 25 0.743714
r82 9 19 2.86629
r83 3 16 1.28657
r84 1 16 2.432
.ends

.subckt PM_DFSR_VSS! 1 3 5 9 13 17 21 25 51 52 53 92 93 97 102 105 110 115 121
+ 133 134 145 147 155
c172 155 0 0.0129594f
c173 151 0 0.0026329f
c174 150 0 0.00263396f
c175 149 0 0.00265842f
c176 148 0 0.00263396f
c177 147 0 0.00160754f
c178 145 0 0.0180757f
c179 134 0 0.0122886f
c180 133 0 0.0145098f
c181 121 0 0.0160626f
c182 115 0 0.0390245f
c183 110 0 0.0499072f
c184 102 0 0.0390121f
c185 97 0 0.0187391f
c186 93 0 0.0117156f
c187 92 0 0.0104717f
c188 53 0 0.00338213f
c189 52 0 0.00577687f
c190 51 0 0.0107687f
c191 25 0 0.00598323f
c192 21 0 0.00577739f
c193 17 0 0.00578018f
c194 13 0 0.006381f
c195 9 0 0.00760373f
c196 5 0 0.00731837f
c197 3 0 0.0285144f
c198 1 0 0.00945489f
r199 153 154 0.447059
r200 152 153 0.335294
r201 145 146 0.525294
r202 140 155 0.311967
r203 135 155 0.311967
r204 134 154 0.0782353
r205 133 155 0.0485265
r206 133 134 0.704118
r207 130 154 0.185986
r208 127 153 0.185986
r209 123 152 0.185986
r210 122 151 0.0731438
r211 121 152 0.0782353
r212 121 122 0.782353
r213 117 151 0.145286
r214 116 150 0.0731438
r215 115 151 0.0731438
r216 115 116 1.74353
r217 112 150 0.145286
r218 111 149 0.0731438
r219 110 150 0.0731438
r220 110 111 2.23529
r221 106 149 0.145286
r222 103 148 0.0731438
r223 103 105 1.58706
r224 102 149 0.0731438
r225 102 105 0.156471
r226 99 148 0.145286
r227 98 147 0.0731438
r228 97 148 0.0731438
r229 97 98 0.961176
r230 94 147 0.145286
r231 93 146 0.0782353
r232 92 147 0.0731438
r233 92 93 0.625882
r234 89 146 0.185986
r235 86 146 0.185986
r236 81 145 0.185986
r237 53 123 0.743714
r238 52 117 0.743714
r239 51 106 0.743714
r240 25 130 0.781714
r241 21 94 0.781714
r242 17 86 0.781714
r243 13 127 0.781714
r244 9 112 0.781714
r245 5 99 0.781714
r246 3 140 0.716571
r247 3 135 0.722
r248 3 81 0.722
r249 1 89 0.781714
.ends

.subckt PM_DFSR_CLKI 1 3 7 9 13 16 22 24 28 31 37 39 43 46 52 54 58 61 84 90 98
+ 104 109 112 118 124 130
c184 130 0 0.019192f
c185 124 0 0.0075122f
c186 118 0 0.0125306f
c187 112 0 0.0170727f
c188 109 0 0.00126048f
c189 104 0 0.0273794f
c190 98 0 0.0207729f
c191 90 0 0.00395448f
c192 84 0 0.0173203f
c193 61 0 0.00375127f
c194 58 0 0.009683f
c195 52 0 0.0233165f
c196 46 0 0.00382791f
c197 43 0 0.00914479f
c198 37 0 0.0265293f
c199 31 0 0.00376254f
c200 28 0 0.00901948f
c201 22 0 0.0252853f
c202 16 0 0.00423877f
c203 13 0 0.00940457f
c204 7 0 0.0248931f
c205 3 0 0.0326891f
r206 130 133 2.85714
r207 124 127 0.714286
r208 118 121 2.14286
r209 112 115 5
r210 109 133 88.2939
r211 104 130 88.2939
r212 101 124 88.2939
r213 101 104 2.85714
r214 98 127 88.2939
r215 93 118 88.2939
r216 87 112 88.2939
r217 87 90 0.142857
r218 84 121 88.2939
r219 82 115 88.2939
r220 82 84 2.14286
r221 76 90 88.2939
r222 66 109 0.339286
r223 64 66 88.2939
r224 61 64 0.966286
r225 56 61 89.3538
r226 56 58 4.472
r227 52 58 1.30843
r228 52 54 22.75
r229 51 98 0.517857
r230 46 51 88.2939
r231 46 49 0.770857
r232 43 49 89.3538
r233 40 43 4.368
r234 37 40 1.30843
r235 37 39 23.79
r236 36 51 4.10714
r237 36 93 0.803571
r238 31 36 88.2939
r239 31 34 0.770857
r240 28 34 89.3538
r241 25 28 4.368
r242 22 25 1.30843
r243 22 24 23.79
r244 21 82 0.0892857
r245 19 21 88.2939
r246 16 19 0.966286
r247 11 16 89.3538
r248 11 13 4.472
r249 7 13 1.30843
r250 7 9 22.75
r251 3 76 2.70886
r252 1 76 0.249714
.ends

.subckt PM_DFSR_D 3 7 12 14 19
c15 14 0 0.016187f
c16 12 0 0.00849482f
c17 7 0 0.0418619f
c18 3 0 0.0308723f
r19 14 19 1.11829
r20 10 14 89.3538
r21 10 12 4.472
r22 5 12 1.30843
r23 5 7 44.85
r24 1 12 1.30843
r25 1 3 28.21
.ends

.subckt PM_DFSR_Q 1 3 12
c11 1 0 0.0293395f
r12 3 12 1.16171
r13 1 12 1.79686
.ends

.subckt PM_DFSR_CLK 3 7 12 17
c18 17 0 0.0162455f
c19 12 0 0.00744602f
c20 7 0 0.0437317f
c21 3 0 0.0317476f
r22 14 17 1.19971
r23 10 14 89.3538
r24 10 12 4.472
r25 5 12 1.30843
r26 5 7 46.54
r27 1 12 1.30843
r28 1 3 29.51
.ends

